Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2],5.40252775357
[C:1]=[C:2]([H:3])[H:4].[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.7342369520290001
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9],7.621371852869999
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.10950206
[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5],2.6121967513900004
[H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.97441046252
[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.04947853502
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]1[H:11],-4.33679569776
[C:6]([H:7])[O:8][H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[O:8][H:9],-5.8759550525699975
[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:6]([H:7])([H:8])[O:9][H:10].[C:3][O:4][H:5],3.07694819238
[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9][H:10]>>[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.57271925585
[H:1][C:2].[O:3]=[C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],-2.59381376344
[C:8][H:9].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9],-2.48853889987
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-5.06982145925
[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.0091544973
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9]>>[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9].[O:1],7.791391955549999
[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.80864163305
[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])(=[C:7]([C:6]#[C:5])[H:8])[H:11].[H:1][C:2]#[C:9][H:10],3.01537802224
[H:1][O:2][C:3]([C:4]=[O:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]1[C:4][O:5][C:6]1([H:7])[H:8],2.43660568124
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10],4.6220239866
[O:1]=[C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])[H:9]>>[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9].[O:1]=[C:2],0.32794842385
[H:1][C:2]=[C:3]([H:4])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][O:11][H:12],-1.23081249992
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9].[O:10][H:11],6.6821347327100025
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.2037078777900003
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([C:7])([H:9])[H:10]>>[O:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7][C:8]1([H:9])[H:10],-3.55967947677
[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1],3.50767984795
[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],1.09230232269
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9].[O:10][H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-6.7059971238100005
[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-8.68123239005
[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-5.76924111916
